US07576091B2
(6-Chloro-pyridin-3-yl)-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-amine
A mixture of 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one (200 mg, 0.76 mmol), N-(6-chloro-pyridin-3-yl)-guanidine nitrate (196 mg, 0.84 mmol), NaOH (34 mg, 0.84 mmol) and 2-methoxyethanol (2 mL) was heated at 100° C. for 24 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (20% EtOAc:hexane) gave the pure title product as a white solid (40 mg, 16%): mp 252-253° C. Anal. RP-HPLC: tR 16.8 min (10-70% MeCN, purity 92%). 1H-NMR (DMSO-d6) δ 9.98 (s, 1H, NH), 8.90 (d, 1H, J 2.9, Ph-H), 8.44 (s, 1H, Py-H), 8.29 (dd, 1H, J 8.7, 2.4, Ph-H), 7.50 (d, 1H, J 8.7, Ph-H), 3.10 (m, 4H, CH2—CH2), 2.82 (s, 3H, CH3). 13C-NMR (DMSO-d6): δ 169.08, 159.26, 158.47, 156.22, 155.35, 141.23, 139.69, 137.05, 128.55, 127.52, 123.55, 117.05, 24.60, 23.07, 19.39. MS (ESI+): m/z 330.06 (M+H)+.

reactant | 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 0.76 mmol, 200 mg | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
reactant | N-(6-chloro-pyridin-3-yl)-guanidine nitrate | 0.84 mmol, 196 mg | [N+](=O)(O)[O-].ClC1=CC=C(C=N1)NC(=N)N
reactant | NaOH | 0.84 mmol, 34 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | (6-Chloro-pyridin-3-yl)-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-amine | 40 mg, 16% | ClC1=CC=C(C=N1)NC1=NC=2C3=C(CCC2C=N1)N=C(S3)C | C15H12ClN5S
